* source PAZ1
R_R5         N00680 0  0.1k  
V_V3         N008580 0 10Vdc
R_R6         N00854 0  1k  
Q_Q1         N00788 N00580 N00680 BC107A 
R_R1         N00486 N00546  0.33k  
V_V2         N009340 0 10Vdc
C_C1         N00580 N00486  10u  
R_R2         N00580 N008580  40k  
C_C2         0 N00680  470u  
R_R3         0 N00580  5k  
C_C3         N00788 N00854  10u  
R_R4         N00788 N009340  1k  
V_V5         N00546 0 DC 0Vdc AC 1Vac 
C_C4         0 N00854  116p  
