* source PAZE6-2
X_U1         0 N01578 N01047 N00994 N01143 AD741
V_V2         0 N054613 10Vdc
R_R4         N02440 N02458  10k  
R_R1         N01578 N02035  10k  
V_V1         N00892 0 10Vdc
R_R2         N01578 N02090  10k  
R_R5         N02565 N01578  10k  
R_R3         N02035 N02440  10k  
D_D1         N02035 N01143 D1N4001 
D_D2         N01143 N02090 D1N4001 
V_V5         N02565 0  
+SIN 0 0.3 1k 0 0 0
X_U3         N02090 N02440 N00892 N054613 N02458 AD741
V_V3         N01047 0 10Vdc
V_V4         0 N00994 10Vdc
