* source PAZE8-1
X_U1         N00484 N00321 N000032 N000033 N00321 AD741
C_C1         N00716 N00484  75n  
V_V1         N000032 0 10Vdc
C_C2         N00743 N00716  1.35u  
V_V3         N00743 0 DC 0Vdc AC 1Vac 
V_V2         0 N000033 10Vdc
R_R1         N00716 N00321  5k  
R_R2         0 N00484  10k  
