* source PAZE2
Q_Q1         N00268 N00179 N02157 BC107A 
C_C2         N02157 N003990  10u  
R_R1         N00179 N000430  13.8k  
C_C3         0 N00179  470u  
R_R2         0 N00179  2.2k  
V_V2         N000430 0 10Vdc
C_C4         0 N01969  116p  
R_R3         0 N02157  0.1k  
V_V1         N00654 0 DC 0Vdc AC 1Vac 
R_R4         N00268 N01833  1k  
R_R5         0 N01969  1k  
R_R6         N00654 N003990  0.33k  
V_V3         N01833 0 10Vdc
C_C1         N00268 N01969  10u  
