* source PAZE3
R_R4         N00356 N00384  1.8k  
R_R5         N00384 N01175  12k  
R_R6         0 N00508  1k  
C_C1         N00700 N00508  10u  
C_C2         0 N00384  470u  
R_R7         N013401 N011090  0.33k  
C_C3         N011090 N00356  10u  
R_R1         N00700 N01175  1k  
Q_Q2         N00700 N00384 N00100 BC107A 
V_V1         N013401 0 DC 0Vdc AC 1Vac 
C_C4         0 N01881  470u  
R_R2         0 N01881  0.1k  
C_C5         0 N00508  116p  
V_V2         N01175 0 10Vdc
R_R3         0 N00356  2.2k  
Q_Q3         N00100 N00356 N01881 BC107A 
