* source PAZE5
X_U1         N00127 N00242 N00776 N01224 N00198 AD745/AD
V_V1         N01344 0 DC 0Vdc AC 1Vac 
R_R1         N01344 N00242  10k  
R_R2         0 N00127  10k  
R_R3         N00127 N00198  1990k  
V_V4         0 N01224 10Vdc
V_V3         N00776 0 10Vdc
