* source PAZE6
V_V3         N000032 0 10Vdc
X_U1         N00529 N00129 N000032 N000033 N00089 AD741
D_D1         N00089 N00129 D1N4001 
V_V4         0 N000033 10Vdc
R_R1         0 N00129  1k  
V_V5         N00529 0  
+SIN 0 3v 1k 0 0 0
