* source PAZE7
R_R5         N00772 0  4.7k  
X_U1         N00582 N00689 N000032 N000033 N00704 AD741
V_V1         0 N000033 10Vdc
V_V3         N01305 0 DC 0Vdc AC 1Vac 
V_V2         N000032 0 10Vdc
R_R1         N00772 N00704  150k  
R_R2         N00582 N00772  3300k  
R_R3         0 N00689  3300k  
R_R4         0 N00704  10k  
C_C1         N00772 N00704  10n  
C_C2         N01305 N00689  1u  
